US08980969B2
Preparation of AFM-Trimellitic Acid Adduct
Trimellitic acid anhydride chloride (32.40 g, 0.154 mol) was dissolved 100 mL acetone in a 3-neck flask under nitrogen. The flask was cooled in an ice bath. The solution was stirred continuously while a solution of AFM-1 (35.25 g, 0.0773 mol), and pyridine (12.32 g, 0.154 mol) in 50 ml of acetone was added slowly to the cold solution using a dropping funnel. After addition was completed, the flask contents were continuously stirred at room temperature for 4 hours. Water (2.77 g, 0.154 mol) was added and stirring at room temperature was continued overnight. Then the solid formed was removed by vacuum filtration and washed with acetone. The filtrate was concentrated and dried to a white solid with 73% yield. The structure confirmed by NMR.

reactant | Trimellitic acid anhydride chloride | 0.154 mol, 32.40 g | C1=CC2=C(C=C1C(=O)Cl)C(=O)OC2=O | C9H3ClO4
reactant | pyridine | 0.154 mol, 12.32 g | N1=CC=CC=C1 | C5H5N
reactant | Water | 0.154 mol, 2.77 g | O | H2O
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | acetone | 100 mL | CC(=O)C | C3H6O
product | Trimellitic Acid | 73% yield | C(C=1C(C(=O)O)=CC(C(=O)O)=CC1)(=O)O | C9H6O6
